US07642264B2
3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl-2′-yl]-phenylamine
A mixture of the above prepared 4-methyl-2′-(3-nitro-phenyl)-6-(4-trifluoromethylphenyl)-[2,4′]bipyridinyl (1.12 g, 3.0 mmol) in THF-MeOH 1:1 (100 mL) and 10% palladium on carbon (1 mol %) was hydrogenated (1 bar hydrogen) at 23° C. for 2 h. The catalyst was filtered off, washed with MeOH and the filtrate was completely evaporated totally to leave a crude product, which was purified by trituration with diethyl ether to give the title compound as a light brown solid (0.914 g, 88%). MS (ISP) 406.5 [(M+H)+]; mp 87° C. (dec.).

reactant | 4-methyl-2′-(3-nitro-phenyl)-6-(4-trifluoromethylphenyl)-[2,4′]bipyridinyl | 3.0 mmol, 1.12 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C24H16F3N3O2
reactant | hydrogen | [H][H] | H2
solvent | THF MeOH | 100 mL | C1CCOC1.CO
catalyst | palladium on carbon | [Pd] | Pd
product | 3-[4-Methyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl-2′-yl]-phenylamine | 0.914 g, 88% | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)N | C24H18F3N3
